US06015824
(1RS,6SR,8aRS)-1-(4-Benzyloxy-phenyl)-6-phenethyl-hexahydro-pyrrolo[2, 1-c][1,4]oxazine (0.09 g, 0.22 mmol) was dissolved in MeOH (5 ml) and hydrogenated in the presence of Pd on C at room temperature and at atmospheric pressure for 4 hours. After filtration and evaporation of the solvent the residue was chromatographed over silica gel (CH2Cl2 --MeOH 19:1) to provide (1RS,6SR,8aRS)-4-(6-phenethyl-hexahydro-pyrrolo[2,1-c][1, 4]oxazin-1-yl)-phenol (25 mg, 35%) as a pink solid, m.p. 170-172° C. MS: m/e=324.3 (M+H+).

reactant | (1RS,6SR,8aRS)-1-(4-Benzyloxy-phenyl)-6-phenethyl-hexahydro-pyrrolo[2, 1-c][1,4]oxazine | 0.22 mmol, 0.09 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1OCCN2C1CCC2CCC2=CC=CC=C2 | C28H31NO2
solvent | MeOH | 5 ml | CO | CH4O
solvent | Pd | [Pd] | Pd
product | (1RS,6SR,8aRS)-4-(6-phenethyl-hexahydro-pyrrolo[2,1-c][1, 4]oxazin-1-yl)-phenol | 25 mg, 35% | C(CC1=CC=CC=C1)C1CCC2C(OCCN21)C2=CC=C(C=C2)O | C21H25NO2
